US07153968B2
Step 2: (5-Bromo-pyridin-2-yl)-(4-methoxy-phenyl)-methanone
To a solution of (5-bromo-pyridin-2-yl)-(4-methoxy-phenyl)-methanol (1.0 eq.) in EtOAc (0.2M) was added MnO2 (3.0 eq.). The mixture was stirred for 1 h, filtered on celite and concentrated to afford the title compound as a white solid.

reactant | (5-bromo-pyridin-2-yl)-(4-methoxy-phenyl)-methanol | 1.0 eq. | BrC=1C=CC(=NC1)C(O)C1=CC=C(C=C1)OC | C13H12BrNO2
solvent | EtOAc | 0.2M | CCOC(=O)C | C4H8O2
catalyst | MnO2 | 3.0 eq. | O=[Mn]=O
product | (5-Bromo-pyridin-2-yl)-(4-methoxy-phenyl)-methanone | BrC=1C=CC(=NC1)C(=O)C1=CC=C(C=C1)OC | C13H10BrNO2
